US04783516
In a 500 ml three-necked standard taper joint round-bottomed flask were combined 12.2 g (0.53 mol) of Na metal chunks and 201.8 g of anhydrous diglyme. Flask was fitted with an electric heating mantle, mechanical stirrer (stainless steel blade), addition funnel, Dewar condenser (containing toluene cooled by immersion coil through which ice water was circulated), thermometer, and valves to maintain an inert atmosphere (nitrogen). Heat was applied, melting the sodium, and addition of a mixture of 54.8 g (0.5 mol) of Me3SiCl and 24.3 g (0.24 mol) of CH2 =CHSiMe3 begun at 115°, and continued, with continuous heating, at a rate which maintained the reflux temperature above 98°. Heating at reflux (115° C.) continued for 8 hr, and standing at room temperature for 32 hr, followed by termination by slow addition of a solution of 16.0 g H2O in 57.7 g diglyme and neutralization with 5 g conc HCl in 26.8 g diglyme. Salts were removed by filtration, and the organic layer vacuum distilled, yielding 4.65 g (7.9%) of Me3SiCH2CH(SiMe3)2, identified by VPC/NMR, plus 39.6% of Me3SiOSiMe3 and 6.2% of Me3SiSiMe3.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium | [Na] | Na
reactant | Me3SiCl | 0.5 mol, 54.8 g | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | HCl | 5 g | Cl | ClH
solvent | diglyme | 57.7 g | COCCOCCOC | C6H14O3
solvent | diglyme | 26.8 g | COCCOCCOC | C6H14O3
solvent | diglyme | 201.8 g | COCCOCCOC | C6H14O3
solvent | H2O | 16.0 g | O | H2O
product | Me3SiCH2CH(SiMe3)2 | 4.65 g, 7.9% | [Si](C)(C)(C)CC([Si](C)(C)C)[Si](C)(C)C | C11H30Si3
